US05202321
Step 1: 5-Phenyl-2-picoline N-oxide
To a solution of 100 g 5-phenyl-2-picoline in 170 mL of glacial HOAc was added 30% H2O2 and the resulting solution was heated at 70° C. overnight. After the reaction mixture was cooled to room temperature, 1 g of 10% Pd/C was added to destroy excess of H2O2. The reaction mixture was then filtered on celite, washed with toluene and the filtrate was evaporated to dryness affording a yellow solid residue. The crude material was swished with a mixture of Et2O/EtOAc (10:1) and filtered to afford the pure title product as a white solid, m.p.: 91° C.

reactant | 5-phenyl-2-picoline | 100 g | C1(=CC=CC=C1)C=1C=CC(=NC1)C | C12H11N
reactant | H2O2 | OO | H2O2
reactant | Et2O EtOAc | CCOCC.CCOC(=O)C
solvent | HOAc | 170 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 5-Phenyl-2-picoline N-oxide | C1(=CC=CC=C1)C1=CC=C([N+](=C1)[O-])C | C12H11NO
